US04824968
Step A: Preparation of 5,6-Dihydro-4-ethylamino-6,6-dimethyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide
A solution of 5,6-dihydro-5,6-dimethyl-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide (3.00 g, 0.011 mol) in dry tetrahydrofuran (40 ml) and benzene (40ml) was cooled to -10° C. and condensed ethylamine (15 ml, 10.8 g, 0.24 mol) was added rapidly with stirring. Titanium tetrachloride 1.14 g, 0.006 mol) was added over 20 minutes while maintaining the temperature below 0° C. The mixture was stirred at ambient temperature for 2.5 hours, filtered, and the solid was washed with tetrahydrofuran. The combined filtrate and washings were evaporated in vacuo and the residue was suspended in absolute methanol (105 ml). With stirring under nitrogen, sodium borohydride (0.53 g, 0.014 mol) was added portionwise over 15 minutes and the mixture was stirred at ambient temperature for 21 hours. After acidification with concentrated hydrochloric acid, the mixture was concentrated in vacuo. The residue was distributed between water (100 ml) and ethyl acetate (100 ml), and the aqueous layer was separated and extracted with ethyl acetate (2×50 ml). The water layer then was basified with saturated sodium bicarbonate solution and extracted with ethyl acetate (3×250 ml). The combined extracts were washed with water (3x), dried over sodium sulfate, and evaporated in vacuo. The residue was crystallized as the hydrochloride salt from ethanolic hydrogen chloride to afford 2.60 g (69%) of pure product.

reactant | 5,6-dihydro-5,6-dimethyl-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide | 0.011 mol, 3.00 g | CC1C(C2=C(SC1C)SC(=C2)S(=O)(=O)N)=O | C9H11NO3S3
reactant | ethylamine | 0.24 mol, 15 ml, 10.8 g | C(C)N | C2H7N
reactant | sodium borohydride | 0.014 mol, 0.53 g | [BH4-].[Na+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | benzene | 40ml | C1=CC=CC=C1 | C6H6
catalyst | Titanium tetrachloride | 0.006 mol, 1.14 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5,6-Dihydro-4-ethylamino-6,6-dimethyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide | 2.60 g, 69% | C(C)NC1C2=C(SC(C1)(C)C)SC(=C2)S(=O)(=O)N | C11H18N2O2S3
